US07576212B2
2-Amino-4-phenyl-thiophene-3-carboxylic acid ethyl ester (5.0 g, 0.02 M) was dissolved in anhydrous dichloromethane (150 ml). Triethylamine (5.56 ml, 0.04 M) was added and the mixture cooled to 0° C. Ethyl Malonyl Chloride (3.79 ml, 0.03 M) was added over 5 min maintaining the temperature at 0° C. The reaction was then stirred at room temperature for 1 hr. Water (100 ml) was added and the organic layer separated. The aqueous layer was extracted with a further 100 ml of dichloromethane. The organics were combined, washed with water (2×100 ml) and dried over sodium sulphate. The concentrated residues were columned on silica, eluting with ethylacetate-cyclohexane 5-10% v/v. Pure fractions were combined and concentrated and the residues triturated with hexane, decanted and dried to give 2-(2-ethoxycarbonyl-acetylamino)-4-phenyl-thiophene-3-carboxylic acid ethyl ester as a white solid. Yield=6.95 g (96.2%).

reactant | 2-Amino-4-phenyl-thiophene-3-carboxylic acid ethyl ester | 0.02 M, 5.0 g | C(C)OC(=O)C1=C(SC=C1C1=CC=CC=C1)N | C13H13NO2S
reactant | Triethylamine | 0.04 M, 5.56 ml | C(C)N(CC)CC | C6H15N
reactant | Ethyl Malonyl Chloride | 0.03 M, 3.79 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | Water | 100 ml | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-(2-ethoxycarbonyl-acetylamino)-4-phenyl-thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(SC=C1C1=CC=CC=C1)NC(CC(=O)OCC)=O | C18H19NO5S
